US07951801B2
(S)-6,6-Dimethyl-4-(2-oxo-2-piperidin-1-yl-ethyl)morpholine-3-carboxylic acid (6-chloro-9H-beta-carbolin-8-yl)-amide
The desired compound was prepared according to Method F from [(S)-5-(6-Chloro-9H-beta-carbolin-8-ylcarbamoyl)-2,2-dimethyl-morpholin-4-yl]-acetic acid and piperidine in 90% yield. 1H-NMR (300 MHz, DMSO-d6): δ 1.17 (s,3H), 1.29 (s,3H), 1.35-1.60 (m,6H), 2.25 (d,1H), 2.71 (d,1H), 3.15 (d,1H), 3.26 (dd,1H), 3.37 (dd,1H), 3.45-3.65 (m, 2H), 3.65 (d, 1H), 3.70 (m, 1H), 3.89 (m, 2H) 7.95 (d,1H), 8.15 (d,1H), 8.20 (d,1H), 8.37 (d,1H), 9.01 (s,1H), 10.43 (s,1H), 11.32 (s,1H). Retention Time (LC, method: ammonium acetate standard): 1.86 min. MS (M+H+): 484.3.

reactant | [(S)-5-(6-Chloro-9H-beta-carbolin-8-ylcarbamoyl)-2,2-dimethyl-morpholin-4-yl]-acetic acid | ClC=1C=C2C=3C=CN=CC3NC2=C(C1)NC(=O)[C@@H]1COC(CN1CC(=O)O)(C)C | C20H21ClN4O4
reactant | piperidine | N1CCCCC1 | C5H11N
reactant | ammonium acetate | C(C)(=O)[O-].[NH4+]
product | (S)-6,6-Dimethyl-4-(2-oxo-2-piperidin-1-yl-ethyl)morpholine-3-carboxylic acid (6-chloro-9H-beta-carbolin-8-yl)-amide | 90% yield | ClC=1C=C2C=3C=CN=CC3NC2=C(C1)NC(=O)[C@H]1N(CC(OC1)(C)C)CC(N1CCCCC1)=O | C25H30ClN5O3
